US07329664B2
3. [2-Methoxymethyl-7-(3-trifluoromethyl-pyridin-2-yl)-pyrido[2,3-d]pyrimidin-4-yl]-(5-trifluoromethyl-pyridin-2-yl)-amine
Heat a mixture of 4-chloro-2-methoxymethyl-7-(3-trifluoromethyl-pyridin-2-yl)-pyrido[2,3-d]pyrimidine (115 mg, 0.3 mmol), 2-amino-5-trifluoromethylpyridine hydrochloride (60 mg, 0.3 mmol), xantphos (17.5 mg, 0.03 mmol), Pd2(dba)3 (27.3 mg, 0.03 mmol)and Cs2CO3 (195 mg, 0.6 mmol) in dioxane (3.0 mL) at 100° C. for 20 hours. Cool the mixture, concentrate under vacuum, dilute with water (5.0 mL), extract with EtOAc (3×3 mL) and dry with MgSO4. Filter the dried extract and concentrate under vacuum to afford crude product. Purify by flash column chromatography to afford title compound as a yellow solid. 1H NMR (400 MHZ, DMSO-D6) d 3.64 (3H, s), 4.63 (2H, s), 7.41 (1H, d, J=2.1), 7.52 (1H, m), 7.81 (1H, d, J=2.1), 7.92(1H, d J=2.0), 8.15 (1H, d, J=2.0), 8.68 (1H, s), 8.88(1H, d, J=1.2), 9.02 (1H, d, J=2.2). MS =481.2 (M+H). IC50 in standard assay of capsaicin receptor activity is less than 10 nanomolar.

reactant | 4-chloro-2-methoxymethyl-7-(3-trifluoromethyl-pyridin-2-yl)-pyrido[2,3-d]pyrimidine | 0.3 mmol, 115 mg | ClC=1C2=C(N=C(N1)COC)N=C(C=C2)C2=NC=CC=C2C(F)(F)F | C15H10ClF3N4O
reactant | 2-amino-5-trifluoromethylpyridine hydrochloride | 0.3 mmol, 60 mg | Cl.NC1=NC=C(C=C1)C(F)(F)F
reactant | xantphos | 0.03 mmol, 17.5 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | Cs2CO3 | 0.6 mmol, 195 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | dioxane | 3.0 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.03 mmol, 27.3 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | [2-Methoxymethyl-7-(3-trifluoromethyl-pyridin-2-yl)-pyrido[2,3-d]pyrimidin-4-yl]-(5-trifluoromethyl-pyridin-2-yl)-amine | COCC=1N=C(C2=C(N1)N=C(C=C2)C2=NC=CC=C2C(F)(F)F)NC2=NC=C(C=C2)C(F)(F)F | C21H14F6N6O
